US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, N4-(4-carboxycyclohexyl)-2-chloro-5-fluoro-4-pyrimidineamine and 3,4-ethylenedioxyaniline were reacted to yield N4-(4-carboxycyclohexyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.62 (d, 1H, J=4.2 Hz), 7.31 (d, 1H, J=2.4 Hz), 6.84 (dd, 1H, J=2.4 and 8.7 Hz), 6.70 (d, 1H, J=8.7 Hz), 4.234.18 (m, 4H), 3.994.08 (m, 1H), 2.59 (t, 1H, J=3.9 Hz), 2.16–2.09 (m, 2H), 1.91–1.84 (m, 2H), 1.78–1.57 (m, 4H); 19F NMR (CD3OD): −48152; LCMS: ret. time: 19.31 min.; purity: 96%; MS (m/e): 389 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | N4-(4-carboxycyclohexyl)-2-chloro-5-fluoro-4-pyrimidineamine | C(=O)(O)C1CCC(CC1)NC1=NC(=NC=C1F)Cl | C11H13ClFN3O2
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N4-(4-carboxycyclohexyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(=O)(O)C1CCC(CC1)NC1=NC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C19H21FN4O4
